US07705042B2
a) 1-(5-Chloro-2-nitro-phenyl)-4-methyl-piperidine
The procedure of Example 4, step (a) was followed using 0.950 g (5.43 mmol) of 4-chloro-2-fluoronitrobenzene and 1.93 mL (16.3 mmol) of 4-methylpiperidine in 10 mL of EtOH to afford 1.37 g (99%) of the title compound as an orange oil which crystallized on standing: Mass spectrum (ESI, m/z): Calcd. for C12H15ClN2O2, 255.1 (M+H), found 255.0.

reactant | 4-chloro-2-fluoronitrobenzene | 5.43 mmol, 0.950 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | 4-methylpiperidine | 16.3 mmol, 1.93 mL | CC1CCNCC1 | C6H13N
solvent | EtOH | 10 mL | CCO | C2H6O
product | 1-(5-Chloro-2-nitro-phenyl)-4-methyl-piperidine | 1.37 g, 99% | ClC=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-] | C12H15ClN2O2
